US03947488
5-Methyl-6(5H)-phenanthridone
By the use of ethyl iodide rather than methyl iodide, 5-ethyl-6 (5H)phenanthridone was prepared in 97% yield (m.p. 87°-90°).

reactant | ethyl iodide | C(C)I | C2H5I
reactant | methyl iodide | CI | CH3I
reactant | 5-ethyl-6 (5H)phenanthridone | C(C)N1C=2C=CC=CC2C2=CC=CC=C2C1=O | C15H13NO
product | 5-Methyl-6(5H)-phenanthridone | CN1C=2C=CC=CC2C2=CC=CC=C2C1=O | C14H11NO
